US07091215B2
7-Bromo-2-methoxypyrazolo[1,5-a]pyridine
A solution of 2-methoxypyrazolo[1,5-a]pyridine (7.15 g) [CAS No.59942-88-0] in tetrahydrofuran (140 mL) was cooled to −78° C. under a nitrogen stream, and then a solution of n-butyllithium in hexane (1.6 M; 46 mL) was added dropwise and the mixture was stirred for 30 minutes. A solution of 1,2-dibromo-1,1,2,2-tetrachloroethane (18.9 g) in tetrahydrofuran (30 mL) was added dropwise at −78° C., and stirring was continued for 1 hour. After increasing the temperature of the reaction mixture to room temperature and adding water, extraction was performed with ethyl acetate and the extract was washed with brine. After drying the obtained organic layer over anhydrous magnesium sulfate and filtering it, the solvent was concentrated under reduced pressure, the residue was purified by silica gel column chromatography, and the title compound (7.1 g) was obtained from the n-hexane:ethyl acetate (50:1) fraction as a yellow oil.

reactant | 2-methoxypyrazolo[1,5-a]pyridine | 7.15 g | COC1=NN2C(C=CC=C2)=C1 | C8H8N2O
reactant | n-butyllithium | C(CCC)[Li]
reactant | 1,2-dibromo-1,1,2,2-tetrachloroethane | 18.9 g | BrC(C(Cl)(Cl)Br)(Cl)Cl | C2Br2Cl4
solvent | tetrahydrofuran | 140 mL | O1CCCC1 | C4H8O
solvent | hexane | 1.6 M, 46 mL | CCCCCC | C6H14
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | 7-Bromo-2-methoxypyrazolo[1,5-a]pyridine | 7.1 g | BrC1=CC=CC=2N1N=C(C2)OC | C8H7BrN2O
